US06784192B2
2-(2-Methoxy-3-pyridyl)acetaldehyde
A solution of 2.7 g of pyridine-sulfur trioxide complex dissolved in DMSO was added dropwise at 20° C. or less to a solution of 1.2 g of 2-(2-methoxy-3-pyridyl)ethanol and 4.8 ml of triethylamine dissolved in DMSO. After stirring for 0.5 hour, a cooled sodium bicarbonate was added thereto, and the mixture was extracted with ethyl acetate. After drying over sodium sulfate, the solvent was evaporated. The residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1), to give 200 mg of a yellow oil.

reactant | 2-(2-methoxy-3-pyridyl)ethanol | 1.2 g | COC1=NC=CC=C1CCO | C8H11NO2
reactant | triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2-Methoxy-3-pyridyl)acetaldehyde | 200 mg | COC1=NC=CC=C1CC=O | C8H9NO2
